US05523325
a: N-(4-ethylbenzoyl)-morpholine
To a cooled solution of 9.6 g (0.11 mole) of morpholine in 25 ml methylene chloride is added 8.4 g (0.05 mole) of 4-ethylbenzoyl chloride dropwise. The reaction is stirred 30 minutes and a white precipitate formed. The mixture is washed three times each with 25 ml of water, dried over anhydrous magnesium sulfate and evaporated in vacuo to yield 10.6 g of yellow oil.

reactant | morpholine | 0.11 mole, 9.6 g | N1CCOCC1 | C4H9NO
reactant | 4-ethylbenzoyl chloride | 0.05 mole, 8.4 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(4-ethylbenzoyl)-morpholine | 10.6 g | C(C)C1=CC=C(C(=O)N2CCOCC2)C=C1 | C13H17NO2
